US08211908B2
To a solution of 3.15 g of 3-chloro-6-methoxypyrazin-2-amine in 20 mL of triethylamine, 2.6 mL of ethyl acrylate and 0.50 g of bis(tri-tert-butylphosphine)palladium(0) were added, and the mixture was stirred at an external temperature of 120 to 130° C. for 2 hours in a sealed tube. Thereto was further added 5 mL of triethylamine, and the mixture was stirred at the same temperature for 4 hours 50 minutes. The reaction mixture was cooled to room temperature and left overnight, then 0.5 mL of ethyl acrylate and 0.25 g of bis(tri-tert-butylphosphine)palladium(0) were added thereto and the mixture was stirred at an external temperature of 115 to 125° C. for 9 hours 20 minutes in a sealed tube. The reaction mixture was cooled to room temperature, water and ethyl acetate were then added thereto, the organic layer was separated and the aqueous layer was extracted with ethyl acetate. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of hexane:ethyl acetate=4:1 to obtain 2.55 g of ethyl (2E)-3-(3-amino-5-methoxypyrazin-2-yl)acrylate as a yellow solid.

reactant | 3-chloro-6-methoxypyrazin-2-amine | 3.15 g | ClC=1C(=NC(=CN1)OC)N | C5H6ClN3O
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acrylate | 2.6 mL | C(C=C)(=O)OCC | C5H8O2
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.50 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.25 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | ethyl acrylate | 0.5 mL | C(C=C)(=O)OCC | C5H8O2
product | ethyl (2E)-3-(3-amino-5-methoxypyrazin-2-yl)acrylate | 2.55 g | NC=1C(=NC=C(N1)OC)/C=C/C(=O)OCC | C10H13N3O3
